US07648983B2
(S)-4-(3-(2-fluoropyridin-3-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine
To a solution of (S)-N-(4-(3-(2-fluoropyridin-3-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-yl)acetamide (450 mg, 1.3 mmoles) in methanol (40 mL) is added a solution of K2CO3 (210 mg, 1.5 mmoles) in methanol:water (2:1, 15 mL). The reaction is stirred at room temperature for 6 h. The solvent is removed under reduced pressure and the residue is dissolved in ethyl acetate. The ethyl acetate layer is washed with water and saturated aqueous NaCl, dried over sodium sulfate, filtered and concentrated under reduced pressure to give a residue. The residue is purified by using SCX column chromatography to give the title compound (65% yield): MS (m/z): 302 (M+1).

reactant | (S)-N-(4-(3-(2-fluoropyridin-3-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-yl)acetamide | 1.3 mmoles, 450 mg | FC1=NC=CC=C1C=1C=C(C=CC1)[C@]1(N=C(SCC1)NC(C)=O)C | C18H18FN3OS
reactant | K2CO3 | 1.5 mmoles, 210 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol water | 15 mL | CO.O
product | (S)-4-(3-(2-fluoropyridin-3-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-amine | 65% yield | FC1=NC=CC=C1C=1C=C(C=CC1)[C@]1(N=C(SCC1)N)C | C16H16FN3S
